US07807676B2
A mixture of 2-(4-methoxy-7-(3-pivalamido-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (15 mg, 0.039 mmol), 4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-ium chloride (11.43 mg, 0.043 mmol), 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (13.71 mg, 0.043 mmol) and N,N-diisopropyl ethylamine (0.022 ml, 0.124 mmol) in DMF (1 ml) was stirred overnight at room temperature. The reaction mixture was filtered through a silica gel pad and concentrated under reduced pressure. The resulting crude was purified by prep HPLC to give N-(1-(4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)pivalamide (10 mg, 43%) as white solid. LCMS: m/e 600.47 (M+H)+, ret time 2.67 min (method 4). 1H NMR (500 MHz, DMSO-D6) δ ppm 1.22 (s, 9H) 3.23-3.29 (m, 2H) 3.39-3.49 (m, 4H) 3.68-3.74 (m, 2H) 3.99 (s, 3H) 7.64 (dd, J=7.63, 4.88 Hz, 1H) 7.85 (d, J=8.24 Hz, 1H) 7.88 (s, 1H) 8.13-8.18 (m, 1H) 8.21 (s, 1H) 8.23 (d, J=3.66 Hz, 1H) 8.64-8.69 (m, 1H) 11.36 (s, 1H) 12.59 (d, J=3.36 Hz, 1H)

reactant | 2-(4-methoxy-7-(3-pivalamido-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 0.039 mmol, 15 mg | COC1=C2C(=C(N=C1)N1N=C(N=C1)NC(C(C)(C)C)=O)NC=C2C(C(=O)O)=O | C17H18N6O5
reactant | 4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-ium chloride | 0.043 mmol, 11.43 mg | [Cl-].N1=C(C=CC=C1)N1N=NN=C1N1CC[NH2+]CC1
reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.043 mmol, 13.71 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethylamine | 0.124 mmol, 0.022 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(1-(4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)pivalamide | 10 mg, 43% | COC1=C2C(=C(N=C1)N1N=C(N=C1)NC(C(C)(C)C)=O)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)=O | C27H29N13O4
